Test Harness for verifying inv.spice

.include '../../sky130nm.lib'
.include 'sky130_vsdinv_1x.spice'

X1 A VGND VPWR VPWR Y sky130_vsdinv_1x

* Supplies
VVGND VGND 0 0
VVPWR VPWR VGND DC 1.8
* Input Pulse
VA A VGND PULSE 0 1.8 0 1n 1n 25ns 50ns 

CLOAD Y VGND 0.05p

.control
tran 0.1n 50ns
run
plot a y+2
.endc
