Test Harness for verifying o21ai.spice

.include '../../sky130nm.lib'
.include 'sky130_vsdo21ai_1x.spice'

X1 A1 A2 B1 VGND VPWR VPWR Y sky130_vsdo21ai_1x

* Supplies
VVGND VGND 0 0
VVPWR VPWR VGND DC 1.8
* Input Pulse

VA A1 VGND PULSE 0 1.8 0 1n 1n 50ns 100ns
VB A2 VGND PULSE 0 1.8 1.1n 1n 1n 50ns 100ns 
VC B1 VGND PULSE 0 1.8 1.1n 1n 1n 25ns 50ns

CLOAD Y VGND 0.05p

.control
tran 0.1n 100ns
run
plot a1
plot a2
plot b1
ploy y
.endc
